US05037824
2-Methyl-3-(2-morpholinoethylcarbamoyl)-6- 3-nitrophenyl)-4-phenylpyridine, which was obtained according to a similar manner to that of Example 1 from 1-(3-nitrophenyl)-3-phenyl-2-propen-1-one (3.8 g), N-(2-morpholinoethyl)acetoacetamide (5.8 g) and ammonium acetate (2.0 g), was treated with a solution of hydrogen chloride in methanol to give 2-methyl-3-(2-morpholinoethylcarbamoyl)-6-(3-nitrophenyl)-4-phenylpyridine dihydrochloride (1.92 g).

reactant | 1-(3-nitrophenyl)-3-phenyl-2-propen-1-one | 3.8 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C=CC1=CC=CC=C1)=O | C15H11NO3
reactant | N-(2-morpholinoethyl)acetoacetamide | 5.8 g | O1CCN(CC1)CCNC(CC(=O)C)=O | C10H18N2O3
reactant | ammonium acetate | 2.0 g | C(C)(=O)[O-].[NH4+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-methyl-3-(2-morpholinoethylcarbamoyl)-6-(3-nitrophenyl)-4-phenylpyridine dihydrochloride | 1.92 g | Cl.Cl.CC1=NC(=CC(=C1C(NCCN1CCOCC1)=O)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | InChI=1S/C25H26N4O4.2ClH/c1-18-24(25(30)26-10-11-28-12-14-33-15-13-28)22(19-6-3-2-4-7-19)17-23(27-18)20-8-5-9-21(16-20)29(31)32;;/h2-9,16-17H,10-15H2,1H3,(H,26,30);2*1H
